US06949642B2
Preparation of (R)-2,3,4,5-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile, X
In a 500 mL flask was charged (R)-2,3,4,5-tetrahydro-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile (25.0 g, 1 eq.), imidazole-4-carboxaldehyde (6.45 g, 1.1 eq.), and CH2Cl2 (150 mL) at room temperature. Cool to 0-5° C. Add trifluoroacetic acid (18.8 mL, 4 eq.) in a period of 10 min. A solution was obtained after addition. Stir the mixture for 10 min at 2° C. Add trichloroacetic acid anhydride (11.7 mL, 1.05 eq.) in a period of 20 min at 2° C. Stir the mixture for 30 min at 0-5° C. Add Na(OAc)3BH (15.51 g, 1.2 eq.) in two portions at 0-5° C. Agitate the mixture at 0° C. for 1.5 h, then room temperature for 1 hour. Add CH2Cl2 (100 mL), then cool to 0° C. Adjust the pH to 8-9 with 10% NaOH (about 125 mL used). Stir for 30 min. Separate the two phases. Wash the organic phase with H2O (2×100 mL), then separate the two phases. Remove most of the solvents, and add EtOH (200 mL); and heat up to 74° C. Stir for 10 min at 74° C. Cool to room temperature in a period of 60 min. Crystals appeared at 65° C. Filter and wash the crystals with EtOH (40 mL). Dry at 40° C. in vacuum oven over night to give the product (13.55 g, 90.7% yield) as a white solid.

reactant | (R)-2,3,4,5-tetrahydro-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile | 25.0 g, 1 eq. | C1(=CC=CC=C1)C[C@@H]1CNC2=C(CN1S(=O)(=O)C=1SC=CC1)C=C(C=C2)C#N | C21H19N3O2S2
reactant | imidazole-4-carboxaldehyde | 6.45 g, 1.1 eq. | N1C=NC(=C1)C=O | C4H4N2O
reactant | trifluoroacetic acid | 18.8 mL, 4 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | trichloroacetic acid anhydride | 11.7 mL, 1.05 eq. | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | Na(OAc)3BH | 15.51 g, 1.2 eq. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | about 125 mL | [OH-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (R)-2,3,4,5-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile | 13.55 g, 90.7% yield | N1C=NC(=C1)CN1C[C@H](N(CC2=C1C=CC(=C2)C#N)S(=O)(=O)C=2SC=CC2)CC2=CC=CC=C2 | C25H23N5O2S2
